US07718653B2
A suspension of 2,4-dichloropyrimidine (3.71 g, 24.87 mmol), 1-(4-methoxybenzyl)-1H-indazol-4-amine (6 g, 23.69 mmol) and N,N-diisopropylethylamine (4.54 mL, 26.06 mmol) in ethanol (60 mL) was stirred at 90° C. for 65 hours. The reaction mixture was concentrated to dryness, diluted with ethyl acetate (100 ml), washed with water (100 ml) and brine (100 ml), dried over magnesium sulfate and concentrated. The crude product was purified by flash chromatography on silica gel eluting with 5 to 70% ethyl acetate in petroleum ether. The solvent was evaporated to dryness to afford N-(2-chloropyrimidin-4-yl)-1-(4-methoxybenzyl)-1H-indazol-4-amine (5.53 g, 64%) as a pink solid. NMR Spectrum: (DMSOd6) 3.70 (s, 3H), 5.57 (s, 2H), 6.86 (d, 2H), 6.93 (d, 1H), 7.22 (d, 2H), 7.37 (dd, 1H), 7.48 (d, 1H), 7.59 (d, 1H), 8.22 (d, 1H), 8.23 (s, 1H), 10.13 (s, 1H); Mass spectrum: MH+ 366

reactant | 2,4-dichloropyrimidine | 24.87 mmol, 3.71 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 1-(4-methoxybenzyl)-1H-indazol-4-amine | 23.69 mmol, 6 g | COC1=CC=C(CN2N=CC=3C(=CC=CC23)N)C=C1 | C15H15N3O
reactant | N,N-diisopropylethylamine | 26.06 mmol, 4.54 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | N-(2-chloropyrimidin-4-yl)-1-(4-methoxybenzyl)-1H-indazol-4-amine | 5.53 g, 64% | ClC1=NC=CC(=N1)NC=1C=2C=NN(C2C=CC1)CC1=CC=C(C=C1)OC | C19H16ClN5O
